US08198271B2
N-(4-t-Butoxycarbonylaminothiophen-3-yl)-5-(2-dimethylamino ethylaminomethyl)pyridine-2-carboxylic acid amide (Reference Compound No. 5-1)
N-(4-t-Butoxycarbonylaminothiophen-3-yl)-5-methanesulfonyloxymethylpyridine-2-carboxylic acid amide (Reference Compound No. 4-1, 0.36 g, 0.83 mmol) and N,N-dimethylethylenediamine (0.46 mL, 4.2 mmol) were dissolved in anhydrous dichloromethane (5.0 mL)-anhydrous acetonitrile (5.0 mL), and then the reaction mixture was stirred at room temperature for 1.5 hours. Ethyl acetate (0.10 L) and water (0.10 L) were added to the reaction solution, and then the mixture was partitioned. The organic layer was washed with brine (0.10 L), dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform-methanol) to give 98 mg of the title reference compound as a brown amorphous product. (Yield 28%)

reactant | N-(4-t-Butoxycarbonylaminothiophen-3-yl)-5-methanesulfonyloxymethylpyridine-2-carboxylic acid amide | C(C)(C)(C)OC(=O)NC=1C(=CSC1)NC(=O)C1=NC=C(C=C1)COS(=O)(=O)C | C17H21N3O6S2
reactant | N,N-dimethylethylenediamine | 4.2 mmol, 0.46 mL | CN(CCN)C | C4H12N2
reactant | Ethyl acetate | 0.10 L | C(C)(=O)OCC | C4H8O2
reactant | water | 0.10 L | O | H2O
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | N-(4-t-Butoxycarbonylaminothiophen-3-yl)-5-(2-dimethylamino ethylaminomethyl)pyridine-2-carboxylic acid amide | Yield 28% | C(C)(C)(C)OC(=O)NC=1C(=CSC1)NC(=O)C1=NC=C(C=C1)CNCCN(C)C | C20H29N5O3S
